US05232923
A mixture of 2 g of ethyl 3,4-diacetoxyphenylpropionate and 2.1 g of a 40% aqueous methylamine solution was heated to 150° C. with stirring for 2 hours in an autoclave. After cooling, the reaction mixture was acidified, extracted three times with 25 ml of ethyl acetate and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by column chromatography using silica gel. A solvent mixture of chloroform:methanol=20:1 was used as eluent. Pure N-methyl-3,4-dihydroxyphenylpropionamide thus obtained was 0.35 g.

reactant | ethyl 3,4-diacetoxyphenylpropionate | 2 g | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C(C(=O)OCC)C | C15H18O6
reactant | methylamine | CN | CH5N
product | N-methyl-3,4-dihydroxyphenylpropionamide | CNC(C(C)C1=CC(=C(C=C1)O)O)=O | C10H13NO3
